US08017646B2
A mixture of trans-3-(4-fluoro-3-methylphenyl)prop-2-enoic acid (6.18 g) and oxalyl chloride (3.72 mL) in dichloromethane (40 mL) containing N,N-dimethylformamide (60 μL) is stirred at room temperature for three hours, concentrated under reduced pressure and redissolved in tetrahydrofurane (50 mL). The solution is maintained at a temperature below −8° C. during the addition of a suspension of sodium borohydride (2.9 g) in N,N-dimethylformamide (15 mL). The mixture is stirred for one hour at a temperature close to −12° C., hydrolysed by the successive addition of water (10 mL) and 1N hydrochloric acid and extracted with ethyl acetate. The organic layers are pooled, washed with water, dired over magnesium sulfate, concentrated under reduced pressure and purified by chromatography over silica gel, with heptane/ethyl acetate 3/1 as eluant, to give 710 mg of trans-3-(4-fluoro-3-methylphenyl)prop-2-en-1-ol as a colorless oil used without further purification.

reactant | trans-3-(4-fluoro-3-methylphenyl)prop-2-enoic acid | 6.18 g | FC1=C(C=C(C=C1)/C=C/C(=O)O)C | C10H9FO2
reactant | oxalyl chloride | 3.72 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 60 μL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | trans-3-(4-fluoro-3-methylphenyl)prop-2-en-1-ol | 710 mg | FC1=C(C=C(C=C1)/C=C/CO)C | C10H11FO
